US07691898B2
(2) 2-[5-(4-Ethylbenzyl)-2-hydroxyphenyl]ethylphosphonic acid diethylester
To a solution of 2-[2-benzyloxy-5-(4-ethylbenzyl)phenyl]ethylphosphonic acid diethylester (0.71 g) in methanol (7.0 mL) was added 5% Pd—C (0.07 g), and the reaction mixture was stirred for 4.5 hr at room temperature under a hydrogen gas atmosphere. After filtration and evaporation, the residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=2/3) to give the title compound (0.52 g) as a colorless oil.

reactant | 2-[2-benzyloxy-5-(4-ethylbenzyl)phenyl]ethylphosphonic acid diethylester | 0.71 g | C(C)OP(OCC)(=O)CCC1=C(C=CC(=C1)CC1=CC=C(C=C1)CC)OCC1=CC=CC=C1 | C28H35O4P
solvent | methanol | 7.0 mL | CO | CH4O
catalyst | Pd—C | 0.07 g | [Pd] | Pd
product | 2-[5-(4-Ethylbenzyl)-2-hydroxyphenyl]ethylphosphonic acid diethylester | 0.52 g | C(C)OP(OCC)(=O)CCC1=C(C=CC(=C1)CC1=CC=C(C=C1)CC)O | C21H29O4P
